US07754744B2
Step 1: 2-(1-tert-Butoxycarbonyl-piperidin-4-ylamino)-6-chloro-isonicotinic acid methyl ester
A stirred suspension of 2,6-dichloro-isonicotinic acid methyl ester (4.52 g, 21.9 mmol 1.0 equiv), 4-amino-piperidine-1-carboxylic acid tert-butyl ester (4.39 g, 21.9 mmol, 1.0 equiv), palladium(II) acetate (0.50 g, 2.2 mmol, 0.1 equiv) and rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (1.39 g, 2.2 mmol, 0.1 equiv) in toluene (150 mL) was treated at rt with caesium carbonate (9.39 g, 28.5 mmol, 1.3 equiv) and then warmed to 80° C. After 6 h, the reaction mixture was poured into crashed ice and extracted twice with ethyl acetate. The combined organic layers were washed with brine and water, dried over MgSO4, filtered and concentrated by evaporation under reduced pressure. The crude product was purified by column chromatography on silica eluting with a gradient of dichloromethane/methanol to give 5.40 g (67%) of the title compound as a light yellow solid. MS (ISP): 370.1 [M+H]+.

reactant | 2,6-dichloro-isonicotinic acid methyl ester | 21.9 mmol, 4.52 g, 1.0 equiv | COC(C1=CC(=NC(=C1)Cl)Cl)=O | C7H5Cl2NO2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 21.9 mmol, 4.39 g, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 2.2 mmol, 1.39 g, 0.1 equiv | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | caesium carbonate | 28.5 mmol, 9.39 g, 1.3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 2.2 mmol, 0.50 g, 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(1-tert-Butoxycarbonyl-piperidin-4-ylamino)-6-chloro-isonicotinic acid methyl ester | 5.40 g, 67% | COC(C1=CC(=NC(=C1)Cl)NC1CCN(CC1)C(=O)OC(C)(C)C)=O | C17H24ClN3O4
